US04550102
A mixture of 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(3-formamido-1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (4.4 g) and conc. hydrochloric acid (1.6 ml) in methanol was stirred for 4 hours at room temperature and evaporated to dryness. The residue was dissolved in water (100 ml) and subjected to column chromatography on a non ionic adsorption resin "Diaion HP 20" (160 ml). After the column was washed with water, the elution was carried out with 20% aqueous methanol. The fractions containing an object compound were collected, evaporated to remove methanol under reduced pressure and lyophilized to give 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(3-amino-1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (2.3 g), mp 185° to 189° C. (dec.).

reactant | 7-[2-methoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(3-formamido-1-pyridiniomethyl)-3-cephem-4-carboxylate | 4.4 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC(=CC=C2)NC=O)C(=O)[O-])C1=O)C=1N=C(SC1)NC=O | C21H19N7O7S2
reactant | hydrochloric acid | 1.6 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(3-amino-1-pyridiniomethyl)-3-cephem-4-carboxylate | 2.3 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC(=CC=C2)N)C(=O)[O-])C1=O)C=1N=C(SC1)N | C19H19N7O5S2
